US04668823
466 ml of a 1.06 Molar titrated solution of 494 mmoles of t-butylmagnesium chloride in 466 ml of ether was added dropwise to a stirred solution of 88.4 g (494 mmoles) of phenyldichlorophosphine in 750 ml of anhydrous ether, maintained at +10° C. under an inert atmosphere. After the addition was complete the mixture was stirred for 15 minutes at +10° C., then the reaction mixture was allowed to gradually warm to ambient temperature. A Grignard mixture of 741 mmoles of phenylmagnesium bromide (prepared from 116.4 g of bromobenzene and 19.8 g of magnesium turnings in 450 ml of anhydrous ether) was added dropwise at +27° C., and the reaction mixture was then refluxed for 18 hours. The mixture was cooled to +18° C., and 340 ml of water was added dropwise at a temperature of between +18° C. and +36° C. After treatment with concentrated hydrochloric acid and ammonium hydroxide distillation gives t-butyldiphenylphosphine. 31P-NMR(delta)=17.53 ppm (relative intensity 1000.59), Yield=about 46%, BP=120°-125° C. at 0.2 torr.

reactant | t-butylmagnesium chloride | 494 mmoles | C(C)(C)(C)[Mg]Cl
reactant | phenyldichlorophosphine | 494 mmoles, 88.4 g | C1(=CC=CC=C1)P(Cl)Cl | C6H5Cl2P
reactant | phenylmagnesium bromide | 741 mmoles, 450 ml, 116.4 g | C1(=CC=CC=C1)[Mg]Br
reactant | water | 340 ml | O | H2O
solvent | ether | 466 ml | CCOCC | C4H10O
solvent | ether | 750 ml | CCOCC | C4H10O
product | t-butyldiphenylphosphine | Yield=about 46% | C(C)(C)(C)P(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19P
